US07989457B2
Diisopropylethylamine (DIPEA, 25.3 mL, 145 mmol) is added dropwise to a solution of EDCI (13.8 g, 72.5 mmol), 4-hydroxybenzoic acid (10.0 g, 72.5 mmol) and ethyl 3-aminopropionate (11.1 g, 72.5 mmol) in THF (700 mL) at room temperature under nitrogen, after which the mixture is stirred for 7 h. The mixture is diluted with water (200 mL) and saturated aqueous sodium bicarbonate solution (100 mL) and extracted with ethyl acetate (3×200 mL). The combined organic extracts are washed with water (100 mL) and brine (100 mL), dried (MgSO4) and the solvents are removed under reduced pressure. The residue is purified by flash column chromatography on silica gel, eluting with hexanes/ethyl acetate (1:1 to 1:4), to afford ethyl 3-(4-hydroxybenzoylamino)propionate as a white crystalline solid (13.59 g, 79%): 1H NMR (CDCl3, 300 MHz) δ 1.27 (t, J=7.14 Hz, 3H), 2.64 (t, J=6.16 Hz, 2H), 3.71 (dt, J=6.09, 11.85 Hz, 2H), 6.86 (d, J=8.70 Hz, 2H), 6.89-6.93 (m 1H), 7.63 (d, J=8.65 Hz, 2H), 8.21-8.27 (m, 1H); APCI MS m/z 238 [C12H15NO4+H]+.

reactant | Diisopropylethylamine | 145 mmol, 25.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDCI | 72.5 mmol, 13.8 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-hydroxybenzoic acid | 72.5 mmol, 10.0 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | ethyl 3-aminopropionate | 72.5 mmol, 11.1 g | NCCC(=O)OCC | C5H11NO2
solvent | THF | 700 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
product | ethyl 3-(4-hydroxybenzoylamino)propionate | 13.59 g, 79% | OC1=CC=C(C(=O)NCCC(=O)OCC)C=C1 | C12H15NO4
